US09062092B2
(2R,5S,11S,14S,17R,18R)-18-Hydroxy-14-isopropyl-2,11,17-trimethyl-15-oxa-3,9,12,28-tetraaza-tricyclo[21.3.1.1*5,9*]octacosa-1(26),23(27),24-triene-4,10,13,16-tetraone—Compound 10
To (E)-(2R,5S,11S,14S,17R,18R)-18-(tert-butyl-dimethyl-silanyloxy)-14-isopropyl-2,11,17-trimethyl-15-oxa-3,9,12,28-tetraaza-tricyclo[21.3.1.1*5,9*]octacosa-1(26),21,23(27),24-tetraene-4,10,13,16-tetraone (50 mg, 0.08 mmol) in ethyl acetate (10 mL) at room temperature was added 10% palladium on carbon (50 mg). The system was purged with hydrogen gas and stirred vigorously for 16 h. The reaction mixture was filtered through Celite and the filter pad washed with methanol. The filtrate was concentrated in vacuo. The ensuing residue was dissolved in anhydrous tetrahydrofuran (5 mL) and transferred to a polypropylene vial. At room temperature hydrogen fluoride.pyridine (1.3 mL, 15.2 mmol) was added to the reaction mixture followed by stirring for 3 h. The reaction was diluted with ethyl acetate and quenched by cautious addition of saturated aqueous ammonium chloride. The organic layer was separated, dried through a hydrophobic frit and concentrated in vacuo. The residue was purified by silica gel chromatography using ethyl acetate/acetone 5/1 to afford the title compound as a white solid. This was further purified by triturating with diethyl ether, filtering and drying the solid in vacuo (20 mg, 48%, 2 steps). 1H NMR (300 MHz, CD3CN) 0.90-1.00 (m, 6H), 1.24-1.30 (m, 6H), 1.43 (d, J=6.9 Hz, 3H), 1.32-2.08 (m, 11H), 2.45-2.81 (m, 4H), 3.23-3.36 (m, 1H), 3.47-3.59 (m, 1H), 3.67 (d, J=10.3 Hz, 1H), 4.02 (d, J=11.8 Hz, 1H), 4.29 (d, J=13.8 Hz, 1H), 4.75 (d, J=5.4 Hz, 1H), 4.95-5.08 (m, 1H), 5.16-5.29 (m, 1H), 7.03-7.29 (m, 6H). LCMS (m/z)=545.3 [M+H], Tr=2.15 min.

reactant | (E)-(2R,5S,11S,14S,17R,18R)-18-(tert-butyl-dimethyl-silanyloxy)-14-isopropyl-2,11,17-trimethyl-15-oxa-3,9,12,28-tetraaza-tricyclo[21.3.1.1*5,9*]octacosa-1(26),21,23(27),24-tetraene-4,10,13,16-tetraone | 0.08 mmol, 50 mg | C(C)(C)(C)[Si](O[C@H]1[C@H](C(O[C@H](C(N[C@H](C(N2CCC[C@@H](C(N[C@@H](C3=CC=CC(/C=C/CC1)=C3)C)=O)N2)=O)C)=O)C(C)C)=O)C)(C)C | C35H56N4O6Si
reactant | pyridine | 15.2 mmol, 1.3 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | (2R,5S,11S,14S,17R,18R)-18-Hydroxy-14-isopropyl-2,11,17-trimethyl-15-oxa-3,9,12,28-tetraaza-tricyclo[21.3.1.1*5,9*]octacosa-1(26),23(27),24-triene-4,10,13,16-tetraone | O[C@H]1[C@H](C(O[C@H](C(N[C@H](C(N2CCC[C@@H](C(N[C@@H](C3=CC=CC(CCCC1)=C3)C)=O)N2)=O)C)=O)C(C)C)=O)C | C29H44N4O6
